US08895566B2
Solid aluminum trichloride (0.68 mL, 5.1 mmol) was added to a solution of tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate (0.40 g, 1.3 mmol) in bromobenzene (5.4 mL, 51.3 mmol) at 0° C. under nitrogen. After being stirred at 0° C. for 4 hours, the mixture was quenched with ice and concentrated under reduced pressure. The mixture was dissolved in 1N LiOH (30 mL) and extracted with EtOAc (2×30 mL). The combined organics were dried with Na2SO4, filtered and concentrated. The crude product was directly taken up in EtOAc (4 mL) and aqueous Na2CO3 solution (2M, 4 mL). Di-tert-butyldicarbonate (0.851 g, 3.9 mmol) was added in one portion. The mixture was stirred at 23° C. overnight. The next day, two layers were separated, and the aqueous layer was further extracted with EtOAc (2×10 mL). The combined organics were dried over Na2SO4, concentrated, and purified by column chromatography (0-40% EtOAc/hexanes) to give tert-butyl 4-(4-bromophenyl)-4-(4-chlorophenyl)piperidine-1-carboxylate (0.302 g, 51% yield). 1H NMR (CDCl3, 400 MHz) δ 7.46 (d, J=7.2 Hz, 2 H), 7.32 (d, J=6.9 Hz, 2 H), 7.19 (d, J=7.0 Hz, 2 H), 7.12 (d, J=7.3 Hz, 2 H), 3.54 (br s, 2H), 2.35 (br s, 2 H), 1.54 (br s, 2H), 1.43 (s, 11H). LCMS: M+1 452.2.

reactant | aluminum trichloride | 5.1 mmol, 0.68 mL | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | 1.3 mmol, 0.40 g | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
reactant | bromobenzene | 51.3 mmol, 5.4 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | Di-tert-butyldicarbonate | 3.9 mmol, 0.851 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 4-(4-bromophenyl)-4-(4-chlorophenyl)piperidine-1-carboxylate | 0.302 g, 51% yield | BrC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl | C22H25BrClNO2
